US06444812B1
Pyridine (25 ml) was added to a mixture of 3,4-dihydro-2H-1,4-benzoxazine (17.8 g) in DCM (200 ml). The mixture was cooled on an ice bath and poured out into a mixture of m-chloro-cinnamoyl chloride (33 g) in DCM (100 ml). The mixture was stirred at room temperature overnight. Water was added and the mixture was decanted. The organic layer was dried, filtered and the solvent was evaporated till dryness, to give a residue which was purified by column chromatography over silica gel (eluent: cyclohexane/ethyl acetate 80/20) and recrystallisation from ACN/diethyl ether, yielding 26 g (65.8%) of 4-[3-(3-chlorophenyl)-1-oxo-2-propen-1-yl]-2,3-dihydro-4H-1,4-benzoxazine (interm. 51).

reactant | Pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dihydro-2H-1,4-benzoxazine | 17.8 g | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | m-chloro-cinnamoyl chloride | 33 g | ClC=1C=C(C=CC(=O)Cl)C=CC1 | C9H6Cl2O
reactant | Water | O | H2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3-chlorophenyl)-1-oxo-2-propen-1-yl]-2,3-dihydro-4H-1,4-benzoxazine | 26 g, 65.8% | ClC=1C=C(C=CC1)C=CC(=O)N1CCOC2=C1C=CC=C2 | C17H14ClNO2
